US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (0.87 mL) was added to a solution mixture of the obtained methyl 2-hydroxy-4-((1-(methylsulfonyl)piperidin-4-yl)oxy)benzoate (0.19 g) in dioxane (0.95 mL) and methanol (0.95 mL), followed by stirring at room temperature for 3 hours. A 2 mol/L aqueous solution of sodium hydroxide (0.58 mL) was added to the reaction mixture, followed by heating to reflux for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then water was added thereto. After adjusting the pH to 3 with 6 mol/L hydrochloric acid, ethyl acetate was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 0.18 g of 2-hydroxy-4-((1-(methylsulfonyl)piperidin-4-yl)oxy)benzoic acid as a white solid.

reactant | sodium hydroxide | 0.87 mL | [OH-].[Na+]
reactant | methyl 2-hydroxy-4-((1-(methylsulfonyl)piperidin-4-yl)oxy)benzoate | 0.19 g | OC1=C(C(=O)OC)C=CC(=C1)OC1CCN(CC1)S(=O)(=O)C | C14H19NO6S
reactant | sodium hydroxide | 0.58 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | dioxane | 0.95 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.95 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-4-((1-(methylsulfonyl)piperidin-4-yl)oxy)benzoic acid | 0.18 g | OC1=C(C(=O)O)C=CC(=C1)OC1CCN(CC1)S(=O)(=O)C | C13H17NO6S
